US07517910B2
3-[2-fluoro-4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid
To a mixture of ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate (0.29 g, 1.34 mmol), {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol (0.38 g, 1.22 mmol), tributylphosphine (0.46 mL, 1.83 mmol) and tetrahydrofuran (7.6 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.46 g, 1.83 mmol) with stirring at 0° C., and the mixture was stirred at room temperature for 18 hr. Diethyl ether was added to the reaction mixture. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give a colorless oil. Then, a mixture of the obtained oil, 1 N aqueous sodium hydroxide solution (2.5 mL), methanol (5.0 mL) and tetrahydrofuran (10.0 mL) was stirred at room temperature for 14 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with 1 N hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/2) to give the title compound (0.46 g, yield 79%) as colorless crystals. MS (APCI−): 478 (M−H), 1H NMR (CDCl3) δ: 2.64 (2H, t, J=7.8 Hz), 2.91 (2H, t, J=7.8 Hz), 4.96 (2H, s), 5.38 (2H, s), 6.61-6.70 (3H, m), 7.01-7.20 (6H, m), 7.32 (2H, d, J=8.1 Hz), 7.34-7.47 (5H, m), 7.67 (1H, m).

reactant | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 1.34 mmol, 0.29 g | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
reactant | {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol | 1.22 mmol, 0.38 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C=C1)CO | C22H19NO
reactant | tributylphosphine | 1.83 mmol, 0.46 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.83 mmol, 0.46 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | sodium hydroxide | 1 N, 2.5 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 5.0 mL | CO | CH4O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 7.6 mL | O1CCCC1 | C4H8O
product | 3-[2-fluoro-4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid | 0.46 g, yield 79% | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1)CCC(=O)O | C31H26FNO3
